US05994312
(R)-N-(1,1-Dimethylethoxy)carbonylpenicillamine N-methyl amide
A solution of (R)-N-(1,1-dimethylethoxy)carbonylpenicillamine (14 g, 56.1 mmol), N-hydroxybenzotriazole (7.6 g, 56.1 mmol), methylamine hydrochloride (18.9 g, 280 mmol), N-methylmorpholine (34 ml, 308 mmol, 4-dimethylaminopyridine (685 mg, 5.6 mmol) and EDC (11.8 g, 62 mmol) in anhydrous dimethylformamide (300 ml) was stirred at RT overnight. The mixture was poured into 10% w/v citric acid (750 ml) and extracted with ether (3×500 ml). The combined extracts were then washed with 8% sodium bicarbonate (2×500 ml) and brine (500 ml), dried (MgSO4) and evaporated in vacuo to provide the title compound (12.3 g, 83%)

reactant | (R)-N-(1,1-dimethylethoxy)carbonylpenicillamine | 56.1 mmol, 14 g | CC(C)(OC(=O)N[C@@H](C(C)(C)S)C(=O)O)C | C10H19NO4S
reactant | N-hydroxybenzotriazole | 56.1 mmol, 7.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | methylamine hydrochloride | 280 mmol, 18.9 g | Cl.CN
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | EDC | 62 mmol, 11.8 g
reactant | citric acid | 750 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | 4-dimethylaminopyridine | 5.6 mmol, 685 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | (R)-N-(1,1-Dimethylethoxy)carbonylpenicillamine N-methyl amide | 12.3 g, 83% | CNC([C@@H](NC(=O)OC(C)(C)C)C(C)(C)S)=O | C11H22N2O3S
